US04959470
3-Bromo-4,5-bis(phenylmethoxy)-2-pyridinecarboxylic acid
3.8 g of 3-Bromo-1,4-dihydro-4-oxo-5-(phenylmethoxy)-1-(phenylmethyl)-2-pyridinecarboxylic acid, phenylmethyl ester and 0.54 g potassium hydroxyde were dissolved in 30 ml tetrahydrofuran and 3 ml H2O. After stirring for 24 hours at room temperature, the THF was distilled off and 20 ml H2O were added to the residue. The pH was adjusted to 3.5 with 2NHCl. Crystals of the title compound were formed and filtered off, washed with 20 ml H2O and dried; yield 3 g of the title compound white crystals.

reactant | 3-Bromo-1,4-dihydro-4-oxo-5-(phenylmethoxy)-1-(phenylmethyl)-2-pyridinecarboxylic acid, phenylmethyl ester | 3.8 g | BrC1=C(N(C=C(C1=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C27H22BrNO4
reactant | potassium | 0.54 g | [K] | K
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | H2O | 3 ml | O | H2O
product | 3-Bromo-4,5-bis(phenylmethoxy)-2-pyridinecarboxylic acid | BrC=1C(=NC=C(C1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C(=O)O | C20H16BrNO4
